US04780480
Chloroacetyl chloride (28.25 g) was added dropwise over 1.5 hours to a stirred mixture of resorcinol (Aldrich Chemical Company) (22 g), aluminum chloride (33.3 g) and nitrobenzene (250 cc), the temperature being kept at 50°-55° C. during the chloroacetyl chloride addition and for an additional 15 minutes thereafter. The solution was then cooled and poured into an excess of ice and dilute hydrochloric acid. The organic layer was retained and extracted with aqueous sodium hydroxide (300 ml, 1M). The alkaline extract was acidified with concentrated hydrochloric acid and filtered to give 6-hydroxycoumaran-3-one, m.p.--238°-240° C.

reactant | Chloroacetyl chloride | 28.25 g | ClCC(=O)Cl | C2H2Cl2O
reactant | resorcinol | 22 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | aluminum chloride | 33.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 250 cc | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 6-hydroxycoumaran-3-one | OC1=CC=C2C(COC2=C1)=O | C8H6O3
